US07517873B2
A mixture of 0.200 g (0.00044 mole) of (rac)-4-(9-cyclopentyl-5-methyl-7-propyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-yl amino)-3-methoxy-benzoic acid (I-16), 0.200 g (0.00053 mole) of 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate, 0.230 mL (0.0013 mole) of ethyldiisopropyl amine and 2 mL of dimethylformamide was stirred for 5 minutes and then 0.075 g (0.00066 mole) of 4-amino-1-methyl-piperidine was added. The mixture was stirred for 3 hours, then diluted with 10 mL of water plus 2 mL of saturated sodium bicarbonate and then extracted 3 times with 10 mL of ethyl acetate. The combined extracts were washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by C18 reverse phase silica gel chromatography, eluting with an acetonitrile-water gradient (20:80-100:0) to give 0.186 g of (rac)-4-(9-cyclopentyl-5-methyl-7-propyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide (I-17) as a white solid.

reactant | (rac)-4-(9-cyclopentyl-5-methyl-7-propyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-yl amino)-3-methoxy-benzoic acid | 0.00044 mole, 0.200 g | C1(CCCC1)N1C2=C(N(C(C(C1)CCC)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C24H31N5O4
reactant | 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate | 0.00053 mole, 0.200 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=NC=CC=C21)[O-])N(C)C
reactant | ethyldiisopropyl amine | 0.0013 mole, 0.230 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-amino-1-methyl-piperidine | 0.00066 mole, 0.075 g | NC1CCN(CC1)C | C6H14N2
solvent | water | 10 mL | O | H2O
solvent | sodium bicarbonate | 2 mL | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | (rac)-4-(9-cyclopentyl-5-methyl-7-propyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide | 0.186 g | C1(CCCC1)N1C2=C(N(C(C(C1)CCC)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCN(CC1)C)C=C2)OC | C30H43N7O3
